US08809369B2
A mixture solution of 2-(3-bromo-phenyl)-4,4-dimethyl-6-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydro-quinoline (150 mg, 0.33 mmol), copper(I) iodide (20 mg, 0.1 mmol), 2-amino-2-methyl-propionic acid (135 mg, 1.3 mmol) and potassium carbonate (110 mg, 1.0 mmol) in dimethyl sulfoxide (2.0 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature and extracted with ethyl acetate (70 mL×2), washed with water (30 mL×3) and saturated aqueous ammonium chloride solution (30 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-{3-[4,4-dimethyl-6-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydro-quinolin-2-yl]-phenylamino}-2-methyl-propionic acid (90 mg, 56.0%) as a white solid: MS (ESI) M+1=488.0.

reactant | 2-(3-bromo-phenyl)-4,4-dimethyl-6-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydro-quinoline | 0.33 mmol, 150 mg | BrC=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)S(=O)(=O)N1CCOCC1 | C21H25BrN2O3S
reactant | 2-amino-2-methyl-propionic acid | 1.3 mmol, 135 mg | NC(C(=O)O)(C)C | C4H9NO2
reactant | potassium carbonate | 1.0 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2.0 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.1 mmol, 20 mg | [Cu]I
product | 2-{3-[4,4-dimethyl-6-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydro-quinolin-2-yl]-phenylamino}-2-methyl-propionic acid | 90 mg, 56.0% | CC1(CC(NC2=CC=C(C=C12)S(=O)(=O)N1CCOCC1)C=1C=C(C=CC1)NC(C(=O)O)(C)C)C | C25H33N3O5S
